US04443365
A mixture of 2-propyl-6-heptenoic acid (1 g) and thioacetic acid (450 mg) was heated for 4 hours at 60° C. and allowed to stand overnight at ambient temperature in an air-tight container. Excess thioacetic acid was evaporated under reduced pressure to give oil of 7-acetylthio-2-propylheptanoic acid (0.9 g).

reactant | 2-propyl-6-heptenoic acid | 1 g | C(CC)C(C(=O)O)CCCC=C | C10H18O2
reactant | thioacetic acid | 450 mg | C(C)(=S)O | C2H4OS
product | 7-acetylthio-2-propylheptanoic acid | 0.9 g | C(C)(=O)SCCCCCC(C(=O)O)CCC | C12H22O3S
